US04864058
treating a solution of rac-β-[(2-amino-1-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid with (+)-1-(p-hydroxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline to form diastereomeric salts (+)-β-[(2-amino-1-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid (+)-1-(p-hydroxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline hydrate which crystallizes and (-)-β-[(2-amino-1-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid (+)-1-(p-hydroxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline hydrate, which remains in solution.

reactant | rac-β-[(2-amino-1-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid | NC1=C(C2=CC=CC=C2C=C1)SC(C(C(=O)O)O)C1=CC=C(C=C1)OC | C20H19NO4S
reactant | (+)-1-(p-hydroxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline | OC1=CC=C(CC2NCCC=3CCCCC23)C=C1 | C16H21NO
product | (+)-β-[(2-amino-1-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid (+)-1-(p-hydroxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline hydrate | O.OC1=CC=C(CC2NCCC=3CCCCC23)C=C1.NC1=C(C2=CC=CC=C2C=C1)SC(C(C(=O)O)O)C1=CC=C(C=C1)OC | InChI=1S/C20H19NO4S.C16H21NO.H2O/c1-25-14-9-6-13(7-10-14)18(17(22)20(23)24)26-19-15-5-3-2-4-12(15)8-11-16(19)21;18-14-7-5-12(6-8-14)11-16-15-4-2-1-3-13(15)9-10-17-16;/h2-11,17-18,22H,21H2,1H3,(H,23,24);5-8,16-18H,1-4,9-11H2;1H2
